US04021441
In the manner given in Example 3, a solution of potassium hydroxide and (cyclopropylmethyl)amine hydrochloride is treated with a solution of 8-bromo-1-(chloromethyl)-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine and potassium iodide in tetrahydrofuran to give 8-bromo-1-[[(cyclopropylmethyl)amino]methyl]-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine.

reactant | potassium hydroxide | [OH-].[K+]
reactant | (cyclopropylmethyl)amine hydrochloride | Cl.C1(CC1)CN
reactant | 8-bromo-1-(chloromethyl)-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine | BrC=1C=CC2=C(C(=NCC=3N2C(=NN3)CCl)C3=CC=CC=C3)C1 | C17H12BrClN4
reactant | potassium iodide | [I-].[K+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 8-bromo-1-[[(cyclopropylmethyl)amino]methyl]-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine | BrC=1C=CC2=C(C(=NCC=3N2C(=NN3)CNCC3CC3)C3=CC=CC=C3)C1 | C21H20BrN5
